US07700808B2
4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-N-(methoxyiminomethyl)-2-methylbenzoic acid amide (Compound No. 2-26 of the Present Invention)
To a solution of 0.18 g of 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-2-methylbenzoic acid amide representing mixed geometrical isomers (isomeric ratio of 10:1) that was synthesized according to Synthetic Example 9 in 3 mL of tetrahydrofuran, 0.11 g of N,N-dimethylformamide dimethyl acetal was added and the mixture was stirred for 2 hours at room temperature. After that, the solvent was distilled off under reduced pressure, the resulting residue was dissolved in 3 mL of tetrahydrofuran, and a solution of 45 mg of methoxyamine hydrochloride in 1 mL of water was dripped in at room temperature. After the mixture was stirred for 1.5 hours, whereinto ethyl acetate was added, an organic layer was washed twice with water and then dehydrated and dried with saturated saline followed by anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. By washing the resulting solid with a mixed solvent of diisopropylether and acetonitrile, 60 mg of aimed product was obtained as pale yellow solid.

reactant | 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-2-methylbenzoic acid amide | 0.18 g | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC(=C(C(=O)N)C=C1)C)C(F)(F)F | C18H12Cl2F3NO2
reactant | N,N-dimethylformamide dimethyl acetal | 0.11 g | COC(N(C)C)OC | C5H13NO2
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-N-(methoxyiminomethyl)-2-methylbenzoic acid amide | 60 mg | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC(=C(C(=O)NC=NOC)C=C1)C)C(F)(F)F | C20H15Cl2F3N2O3
